US07517889B2
Lithium hydroxide (0.13 g, 3.12 mmol) is added to a solution of (3-bromo-phenyl)-difluoro-acetic acid ethyl ester (0.29 g, 1.04 mmol) in methanol/water (8 mL, 3:1) and the reaction mixture is stirred overnight at room temperature. The mixture is diluted with water and volatiles are removed in vacuo. The aqueous is extracted once with diethyl ether, acidified to pH 2, and extracted twice with ethyl acetate. The combined extracts are dried over magnesium sulfate, filtered and concentrated in vacuo to afford (3-bromo-phenyl)-difluoro-acetic acid (250 mg), which is used in the next step without further purification. LCMS: RT=2.26 minutes; MS: 249, 251(M−H).

reactant | Lithium hydroxide | 3.12 mmol, 0.13 g | [OH-].[Li+]
reactant | (3-bromo-phenyl)-difluoro-acetic acid ethyl ester | 1.04 mmol, 0.29 g | C(C)OC(C(F)(F)C1=CC(=CC=C1)Br)=O | C10H9BrF2O2
solvent | methanol water | 8 mL | CO.O
solvent | water | O | H2O
product | (3-bromo-phenyl)-difluoro-acetic acid | 250 mg | BrC=1C=C(C=CC1)C(C(=O)O)(F)F | C8H5BrF2O2
